### PR TITLE
generalization of `bigcup_mkset`

### PR DESCRIPTION
**Pull request by affeldt-aist**

### CODE REVIEW

File: theories/classical_sets.v [hunk 1]
```diff
@@ -776,16 +776,33 @@ Qed.
 
 End bigop_lemmas.
 
-Lemma bigcup_mkset (T : choiceType) U (s : seq T) (f : T -> set U) :
-  \bigcup_(t in [set x | x \in s]) (f t) = \big[setU/set0]_(t <- s) (f t).
+Section bigcup_mkset.
+Variables (T : choiceType) (U : Type).
+
+Lemma bigcup_mkset_cond (s : seq T) (f : T -> set U) (P : pred T) :
+  \bigcup_(t in [set x | (x \in s) && P x]) (f t) =
```
Comment (CohenCyril) [inline theories/classical_sets.v:783]: Why not `bigcup_set_cond` ?

File: theories/classical_sets.v [hunk 2]
```diff
@@ -776,16 +776,33 @@ Qed.
...
+- rewrite inE => /orP[/eqP ->{t} -> fhu|ts Pt ftu]; first by left.
+  case: ifPn => Ph; first by right; exists t => //; apply/andP; split.
+  by exists t => //; apply/andP; split.
+- case: ifPn => [Ph [fhu|[t /andP[ts Pt] ftu]]|Ph [t /andP[ts Pt ftu]]].
+  + by exists h => //; apply/andP; split => //; rewrite mem_head.
+  + by exists t => //; apply/andP; split => //; rewrite inE orbC ts.
+  + by exists t => //; apply/andP; split => //; rewrite inE orbC ts.
 Qed.
 
+Lemma bigcup_mkset (s : seq T) (f : T -> set U) :
```
Comment (CohenCyril) [inline theories/classical_sets.v:797]:
```suggestion
Lemma bigcup_set (s : seq T) (f : T -> set U) :
```
for uniformily
